US07599024B2
A total of 20 parts by weight (60 g) of methacrylic acid, 10 parts by weight (30 g) of methyl methacrylate, 55 parts by weight (165 g) of butyl methacrylate, and 15 parts by weight (45 g) of hydroxyethyl methacrylate were dissolved in 300 g of butyl lactate, 0.75 parts by weight (2.25 g) of azobisisobutylnitrile was added under a nitrogen atmosphere, and an acrylic copolymer resin was obtained by reaction for 5 h at 70° C. The acrylic copolymer resin thus obtained was diluted with propylene glycol monomethyl ether acetate to a resin concentration of 10% and a diluted solution of acrylic copolymer resin was obtained. A total of 19.0 g of a pigment and 0.9 g of a dispersant were added to 80.1 g of the diluted solution, the components were kneaded with a three-roll system, and colored varnishes of red, green, and blue colors were obtained. Propylene glycol monomethyl ether acetate was added to the colored varnishes to obtain a pigment concentration of 12-15% and a viscosity of 15 cps, and R, G, B colored inks were obtained.

reactant | methacrylic acid | 60 g | C(C(=C)C)(=O)O | C4H6O2
reactant | methyl methacrylate | 30 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | butyl methacrylate | 165 g | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | hydroxyethyl methacrylate | 45 g | C(C(=C)C)(=O)OCCO | C6H10O3
solvent | butyl lactate | 300 g | C(C(O)C)(=O)OCCCC | C7H14O3
product | acrylic copolymer resin | CCCCC(CC)COC(=O)C=C.CCCCOC(=O)C=C | InChI=1S/C11H20O2.C7H12O2/c1-4-7-8-10(5-2)9-13-11(12)6-3;1-3-5-6-9-7(8)4-2/h6,10H,3-5,7-9H2,1-2H3;4H,2-3,5-6H2,1H3
